US05716936
A The process is performed as in Example 1A, but starting with 3.35 g of (2 RS,4 SR,5RS)-4-(4-chlorophenyl)sulphonyl-5-(2-fluorophenyl)-2-isobutylcarbamoyl-1-{2-[3-(3-methoxycarbonylmethylphenyl)ureido]acetyl}-pyrrolidine and 0.36 g of potassium hydroxide in a mixture of 60 cm3 of methanol and 20 cm3 of distilled water. After treatment, 1.65 g of 3-(3-{2-[4-(4-chlorophenyl)sulphonyl-5-(2-fluorophenyl)-2-isobutyl carbamoyl-1-pyrrolidinyl]-2-oxoethyl}ureido)phenylacetic acid are obtained [Rf=0.45; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 373 K, δ in ppm): 0.94 (d, J=6.5 Hz, 6H: C(CH3)2); 1.85 (mt, 1H: CH); from 2.30 to 2.55 and 2.84 (2 mts, 1H each: CH2 at 3); 3.06 (mt, 2H: NCH2); 3.50 (s, 2H: ArCH2COO); 3.67 and 3.88 (broad d and d respectively, J=17 Hz, 1H each:COCH2N); 4.08 (mt, 1H: H4); 4.78 (t, J=8 Hz, 1H: H2); 5.68 (d, J=3 Hz, 1H: H5); 6.12 (residual t:NHCO); 6.85 (broad d, J=7.5 Hz, 1H: aromatic H (H4 : ortho to the CH2)); from 6.95 to 7.30 (mt, 6H: aromatic H); 7.69 (broad d, J=8.5 Hz, 2H: H of the aromatic at 4 (H ortho to the Cl)); 7.96 (broad d, J=8.5 Hz, 2H: H aromatic at 4 (H meta to the Cl)); 8.20 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6)); 8.40 (residual s: CONHAr)].

reactant | (2 RS,4 SR,5RS)-4-(4-chlorophenyl)sulphonyl-5-(2-fluorophenyl)-2-isobutylcarbamoyl-1-{2-[3-(3-methoxycarbonylmethylphenyl)ureido]acetyl}-pyrrolidine | 3.35 g | ClC1=CC=C(C=C1)S(=O)(=O)C1CC(N(C1C1=C(C=CC=C1)F)C(CNC(=O)NC1=CC(=CC=C1)CC(=O)OC)=O)C(NCC(C)C)=O | C33H36ClFN4O7S
reactant | potassium hydroxide | 0.36 g | [OH-].[K+]
solvent | methanol | 60 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | 3-(3-{2-[4-(4-chlorophenyl)sulphonyl-5-(2-fluorophenyl)-2-isobutyl carbamoyl-1-pyrrolidinyl]-2-oxoethyl}ureido)phenylacetic acid | 1.65 g | ClC1=CC=C(C=C1)S(=O)(=O)C1CC(N(C1C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O)(CC(C)C)C(N)=O | C32H34ClFN4O7S
